US06756380B1
A solution of 4.2 g (18.02 mmol) 5-bromo-2-hydroxymethyl-pyrimidine-4-carboxylic acid in 50 ml 5N HCl/EtOH was stirred for 5 hrs. at RT. After evaporation of the solvent the residue was distributed between 50 ml CH2Cl2 and 30 ml H2O. The organic phase was washed with sat. NaHCO3 and brine. The combined organic phases were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography to give 3.80 g (80%) 5-bromo-2-hydroxymethyl-pyrimidine-4-carboxylic acid ethyl ester as a pale yellow solid.

reactant | 5-bromo-2-hydroxymethyl-pyrimidine-4-carboxylic acid | 18.02 mmol, 4.2 g | BrC=1C(=NC(=NC1)CO)C(=O)O | C6H5BrN2O3
reactant | HCl EtOH | 5N, 50 ml | Cl.CCO
product | 5-bromo-2-hydroxymethyl-pyrimidine-4-carboxylic acid ethyl ester | 3.80 g, 80% | C(C)OC(=O)C1=NC(=NC=C1Br)CO | C8H9BrN2O3
